US08530667B2
A flask is charged with 5-methoxy-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one (3.96 g, 22 mmol), cerium ammonium nitrate (13.3 g, 24.2 mmol) and iodine (6.73 mg, 26.5 mmol) and then purged with nitrogen. Anhydrous acetonitrile (120 ml) is added, and the reaction heated to 40° C., with stirring for 2 hours. The crude reaction mixture is poured onto a saturated aqueous solution of sodium metabisulphite (250 ml) and extracted with dichloromethane (2×250 ml). The combined organics are dried over magnesium sulphate, filtered, and the solvent is removed under reduced pressure to give 4-Iodo-5-methoxy-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one (5.70 g)

reactant | 5-methoxy-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one | 22 mmol, 3.96 g | COC1=CC(C2C3CCC(C12)O3)=O | C10H12O3
reactant | cerium ammonium nitrate | 24.2 mmol, 13.3 g | [N+](=O)([O-])[O-].[NH4+].[Ce]
reactant | iodine | 26.5 mmol, 6.73 mg | II | I2
solvent | sodium metabisulphite | 250 ml | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
product | 4-Iodo-5-methoxy-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one | 5.70 g | IC=1C(C2C3CCC(C2C1OC)O3)=O | C10H11IO3
